US08053440B2
2-(4-(4-Oxo-3,4-dihydroquinazolin-2-yl)phenoxy)acetamide was synthesized from anthranilamide and 2-(4-formyl-phenoxy)-acetamide, using the method described for 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one. 2-(4-(4-Oxo-3,4-dihydroquinazolin-2-yl)phenoxy)acetamide (183 mg, 56%) was isolated as a light beige solid. Selected data: MS (m/z): 295.97; MP 277.5-278.5° C.

reactant | anthranilamide | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
reactant | 2-(4-formyl-phenoxy)-acetamide | C(=O)C1=CC=C(OCC(=O)N)C=C1 | C9H9NO3
reactant | 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=NC=CC=C1)=O | C15H13N3O3
product | 2-(4-(4-Oxo-3,4-dihydroquinazolin-2-yl)phenoxy)acetamide | 183 mg, 56% | O=C1NC(=NC2=CC=CC=C12)C1=CC=C(OCC(=O)N)C=C1 | C16H13N3O3
